### ISSUE TITLE
`simp_lists` not going inside `forallE`

### ISSUE THREAD

**Issue by ayhon** [AeneasVerif/aeneas#487]
The following example works.
```lean
@[simp_lists_simps]
theorem foo[Inhabited α](ls: List α)(i_idx: 0 < ls.length)
: ls[0]! = ls.head!
:= by cases ls <;> simp

example[Inhabited α](ls: List α)(i: Nat)(i_idx: i < ls.length)
: ls[0]! = ls.head!
:= by simp_lists
```

However, if we modify the example to not take `i_idx` as an argument, the following no longer works.
```lean
example[Inhabited α](ls: List α)(i: Nat)
: i < ls.length → ls[0]! = ls.head!
:= by simp_lists
```

Other similar tactics such as `simp_ifs` also don't support this use case.
